** sch_path: /foss/designs/PMU/PMU_AC_PSRR_TB.sch
**.subckt PMU_AC_PSRR_TB
VDD VDD GND {VDD} ac 1
Vmeas2 net1 VSS 0
.save i(vmeas2)
VSS VSS GND 0
C1 Vout GND {CL} m=1
R7 Vout net2 {RLoad} m=1
x1 VDD V_Bais V_BG VFB Vout VFB net3 LDO_NMOS_1V2
Vmeas net3 VSS 0
.save i(vmeas)
Vmeas1 net4 GND 0
.save i(vmeas1)
x2 VDD net4 V_BG V_Bais BGR_I_ZTAT
x3 VDD V_Bais net1 net5 1u_Ref
Vmeas3 net2 GND 0
.save i(vmeas3)
**** begin user architecture code



** IHP MODELS

.lib cornerMOShv.lib mos_tt
.lib cornerRES.lib res_typ
.lib cornerCAP.lib cap_typ





.options rshunt = 1e12
.options gmin=1e-12
.include LDO_AC_PSRR_TB.save
.save all
.param temp = 27
.param CL = 100p
.param VDD = 2.2
.param Rload = 12e3
.control

save all

ac dec 100 1 10G
	let V_LDO =  vdb(Vout)
	meas ac PSRR_LDO FIND V_LDO at=13.56e6

Write PMU_AC_PSRR_TB.raw
.endc


**** end user architecture code
**.ends

* expanding   symbol:  LDO_NMOS_1V2.sym # of pins=7
** sym_path: /foss/designs/LDO_NMOS_1V2.sym
** sch_path: /foss/designs/LDO_NMOS_1V2.sch
.subckt LDO_NMOS_1V2 VDD I_Bais V_P V_N Vout V_FB VSS
*.iopin Vout
*.iopin VDD
*.iopin I_Bais
*.iopin V_P
*.iopin V_N
*.iopin V_FB
*.iopin VSS
Vmeas net6 VSS 0
.save i(vmeas)
XM6 VDD VG2 Vout GND sg13_hv_nmos w=10u l=0.45u ng=10 m=50
Vmeas1 net3 VSS 0
.save i(vmeas1)
x1 VDD I_Bais V_P V_N net1 VG2 net6 OpAmp_2etags
XC3 net2 net1 cap_cmim w=40e-6 l=40e-6 m=3
XC4 VG2 net3 cap_cmim w=40e-6 l=40e-6 m=4
XR1 net2 VG2 sub! rhigh w=0.5e-6 l=15e-6 m=1 b=0
XR3 net5 V_FB sub! rhigh w=0.5e-6 l=18e-6 m=2 b=0
XR2 V_FB Vout sub! rhigh w=0.5e-6 l=18e-6 m=2 b=0
XR4 net4 net5 sub! rhigh w=0.5e-6 l=18e-6 m=2 b=0
XR5 net3 net4 sub! rhigh w=0.5e-6 l=18e-6 m=2 b=0
.ends


* expanding   symbol:  /foss/designs/bgr/BGR_I_ZTAT.sym # of pins=4
** sym_path: /foss/designs/bgr/BGR_I_ZTAT.sym
** sch_path: /foss/designs/bgr/BGR_I_ZTAT.sch
.subckt BGR_I_ZTAT VDD VSS V_Ref I_Bais
*.iopin VDD
*.iopin I_Bais
*.iopin V_Ref
*.iopin VSS
XM7 net10 V_out VDD VDD sg13_hv_pmos w=1u l=3u ng=1 m=1
XM8 net2 V_out VDD VDD sg13_hv_pmos w=1u l=3u ng=1 m=1
XC1 VDD V_out cap_cmim w=40e-6 l=40e-6 m=2
Vmeas1 net2 Vp 0
.save i(vmeas1)
Vmeas22 Vn net1 0
.save i(vmeas22)
x2 VDD I_Bais Vp Vn V_out net3 Stage1
XM2 Vp1 Vp1 VSS VSS sg13_hv_nmos w=7.5u l=4u ng=1 m=2
XM3 net1 net1 VSS VSS sg13_hv_nmos w=7.5u l=4u ng=1 m=1
Vmeas2 net10 Vn 0
.save i(vmeas2)
Vmeas5 net8 Vp1 0
.save i(vmeas5)
Vmeas6 net3 VSS 0
.save i(vmeas6)
XM1 net9 V_out VDD VDD sg13_hv_pmos w=1u l=3u ng=1 m=1
Vmeas3 net9 V_Ref 0
.save i(vmeas3)
XM4 V_Ref V_Ref VSS VSS sg13_hv_nmos w=2u l=2.75u ng=1 m=1
XM6 VS1 Vn VSS VSS sg13_hv_nmos w=4u l=2u ng=1 m=1
XM5 net4 net4 VDD VDD sg13_hv_pmos w=4u l=1u ng=1 m=1
XM9 net5 net4 VDD VDD sg13_hv_pmos w=4u l=1u ng=1 m=1
Vmeas4 net5 VS1 0
.save i(vmeas4)
XC3 net6 VSS cap_cmim w=5e-6 l=5e-6 m=1
XM10 VSS VDD net4 VDD sg13_hv_pmos w=4u l=1u ng=1 m=1
XMSU V_out VS1 net7 net7 sg13_hv_nmos w=4u l=2u ng=1 m=1
Vmeas8 net4 net6 0
.save i(vmeas8)
Vmeas9 net7 VSS 0
.save i(vmeas9)
XR4 VSS Vp sub! rhigh w=0.5e-6 l=80e-6 m=1 b=0
XR5 net8 Vp sub! rhigh w=0.5e-6 l=210e-6 m=1 b=0
.ends


* expanding   symbol:  1u_Ref.sym # of pins=4
** sym_path: /foss/designs/1u_Ref.sym
** sch_path: /foss/designs/1u_Ref.sch
.subckt 1u_Ref VDD VP VSS VR
*.iopin VDD
*.iopin VSS
*.iopin VP
*.iopin VR
XM1 VP VP VDD VDD sg13_hv_pmos w=10u l=2u ng=1 m=1
XM2 net3 VP VDD VDD sg13_hv_pmos w=10u l=2u ng=1 m=1
Vmeas2 net1 VSS 0
.save i(vmeas2)
XM4 net3 VR net1 net1 sg13_hv_nmos w=10u l=1u ng=1 m=1
XM3 net2 net3 VR VSS sg13_hv_nmos w=10u l=1u ng=1 m=4
Vmeas1 VP net2 0
.save i(vmeas1)
Vmeas3 VP net7 0
.save i(vmeas3)
XR1 VSS VR sub! rhigh w=0.5e-6 l=185e-6 m=1 b=0
XM8 VS1 VR VSS VSS sg13_hv_nmos w=10u l=0.45u ng=1 m=2
XM9 net4 net4 net6 net6 sg13_hv_pmos w=10u l=1u ng=1 m=1
XM10 net5 net4 net6 net6 sg13_hv_pmos w=10u l=1u ng=1 m=1
Vmeas6 net5 VS1 0
.save i(vmeas6)
XC3 VS2 VSS cap_cmim w=10e-6 l=6.63e-6 m=1
XMSU net7 VS1 VR VSS sg13_hv_nmos w=10u l=0.45u ng=1 m=10
Vmeas7 net4 VS2 0
.save i(vmeas7)
Vmeas5 VDD net6 0
.save i(vmeas5)
.ends


* expanding   symbol:  OpAmp_2etags.sym # of pins=7
** sym_path: /foss/designs/OpAmp_2etags.sym
** sch_path: /foss/designs/OpAmp_2etags.sch
.subckt OpAmp_2etags VDD I_Bais VP VN VG VOUT VSS
*.iopin VDD
*.iopin I_Bais
*.iopin VP
*.iopin VN
*.iopin VG
*.iopin VOUT
*.iopin VSS
XM3 net1 net1 VSS VSS sg13_hv_nmos w=10u l=2u ng=1 m=2
XM1 net1 VN net2 VDD sg13_hv_pmos w=5u l=2u ng=1 m=2
XM2 VG VP net2 VDD sg13_hv_pmos w=5u l=2u ng=1 m=2
XM4 VG net1 VSS VSS sg13_hv_nmos w=10u l=2u ng=1 m=2
XM5 net2 I_Bais VDD VDD sg13_hv_pmos w=10u l=2u ng=1 m=4
XM7 VOUT I_Bais VDD VDD sg13_hv_pmos w=10u l=2u ng=1 m=8
XM6 VOUT VG VSS VSS sg13_hv_nmos w=10u l=2u ng=1 m=8
.ends


* expanding   symbol:  Stage1.sym # of pins=6
** sym_path: /foss/designs/Stage1.sym
** sch_path: /foss/designs/Stage1.sch
.subckt Stage1 VDD VB Vin1 Vin2 Vout1 VSS
*.iopin VDD
*.ipin VB
*.ipin Vin1
*.ipin Vin2
*.iopin VSS
*.opin Vout1
XM1 net1 Vin1 VX VDD sg13_hv_pmos w=10u l=5u ng=2 m=2
XM2 net1 net1 VSS VSS sg13_hv_nmos w=5u l=1u ng=2 m=2
XM3 Vout1 net1 VSS VSS sg13_hv_nmos w=5u l=1u ng=2 m=2
XM4 Vout1 Vin2 VX VDD sg13_hv_pmos w=10u l=5u ng=2 m=2
XM5 VX VB VDD VDD sg13_hv_pmos w=10u l=2u ng=1 m=4
.ends

.GLOBAL GND
.end
